US08748624B2
STEP C: tert-butyl 3-(5-(5-chloro-2-(((3′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate
tert-Butyl 3-(5-(5-chloro-2-(((4-bromophenyl)amino)methyl)phenyl)picolinamido)propanoate (82 mg, 0.15 mmol), (3-(trifluoromethoxy)phenyl)boronic acid (41 mg, 0.20 mmol), Pd(dppf)Cl2 (18 mg, 0.02 mmol), and K2CO3 (55 mg, 0.40 mmol) were dissolved in 1,4-dioxane (1.5 mL) and water (0.5 mL) and heated to 120° C. in the microwave. After 1 h the resulting mixture was diluted with DCM, dried (Na2SO4), filtered through CELITE, and purified via column chromatography to yield the title compound.

reactant | tert-Butyl 3-(5-(5-chloro-2-(((4-bromophenyl)amino)methyl)phenyl)picolinamido)propanoate | 0.15 mmol, 82 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C)CNC1=CC=C(C=C1)Br | C26H27BrClN3O3
reactant | (3-(trifluoromethoxy)phenyl)boronic acid | 0.20 mmol, 41 mg | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
reactant | K2CO3 | 0.40 mmol, 55 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 0.5 mL | O | H2O
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | 0.02 mmol, 18 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 3-(5-(5-chloro-2-(((3′-(trifluoromethoxy)-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C)CNC1=CC=C(C=C1)C1=CC(=CC=C1)OC(F)(F)F | C33H31ClF3N3O4
